US04323681
2,4-Diamino-5-pyrimidinecarbothioamide
Hydrogen sulfide is passed into a mixture of 2,4-diamino-5-pyrimidine carbonitrile (10.000 g., 0.0740 mole), triethylamine (10.3 ml., 0.0740 mole) and pyridine (6.0 ml., 0.074 mole) in dimethyl sulfoxide (100 ml.) for one-half hour. After storage at room temperature overnight, the brown solution is poured into water (500 ml.) with stirring. The product separates as a yellow crystalline solid which is collected by filtration, washed with water, dried at 56° C./0.1 mm. The yield of crude product melting at greater than 325° C. (uncorr.) is 12.020 g. (96.0%). Recrystallization of this material from 2-methoxyethanol affords the title compound as tan crystals melting above 350° C. (uncorr.) after drying at 110° C. at 0.1 mm.

reactant | Hydrogen sulfide | S | H2S
reactant | 2,4-diamino-5-pyrimidine carbonitrile | 0.0740 mole, 10.000 g | NC1=NC=C(C(=N1)N)C#N | C5H5N5
reactant | triethylamine | 0.0740 mole, 10.3 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.074 mole, 6.0 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 2,4-Diamino-5-pyrimidinecarbothioamide | NC1=NC=C(C(=N1)N)C(N)=S | C5H7N5S
